US07816353B2
To a 10 mL recovery flask was added 2-(2-amino-5-cyano-6-methylsulfanyl-pyrimidin-4-ylsulfanyl)-N-(2-amino-5-trifluoromethyl-phenyl)-acetamide (and regioisomer) (10 mg, 0.0241 mmol) and AcOH (2 mL). The solution was stirred at 120° C. for 1 h. The reaction mixture was concentrated. The resulting film was resuspended in 1:1 CH3CN/H2O and lyophilized to give 2-amino-4-methylsulfanyl-6-(6-trifluoromethyl-1H-benzoimidazol-2-ylmethylsulfanyl)-pyrimidine-5-carbonitrile as a tan powder (9 mg, 94%). LC/MSD (HP Series 1100 MSD) Expected MW: 396.04, Observed M+H, 397.0, Retention time: 1.49. Analytical LC: 98%, Retention time: 4.46 (11 minute run). 1H-NMR, DMSO-d6, Varian 400 MHz δ 12.69 (m, 1H), 8.10 (bs, 1H), 7.91-7.79 (d, 1H), 7.76-7.64 (dd, 1H), 7.51-7.46 (dd, 1H), 4.68 (s, 2H) ppm.

reactant | 2-(2-amino-5-cyano-6-methylsulfanyl-pyrimidin-4-ylsulfanyl)-N-(2-amino-5-trifluoromethyl-phenyl)-acetamide | NC1=NC(=C(C(=N1)SCC(=O)NC1=C(C=CC(=C1)C(F)(F)F)N)C#N)SC | C15H13F3N6OS2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 2-amino-4-methylsulfanyl-6-(6-trifluoromethyl-1H-benzoimidazol-2-ylmethylsulfanyl)-pyrimidine-5-carbonitrile | 9 mg, 94% | NC1=NC(=C(C(=N1)SC)C#N)SCC1=NC2=C(N1)C=C(C=C2)C(F)(F)F | C15H11F3N6S2
